US04699914
3,4-dihydro-3,6-dimethyl-5-[4-(1-imidazolyl)-phenyl]-2(1H)-pyridone
Similar to example 1, the reaction is carried out with 3 g 1-[4-(1-imidazolyl)-phenyl]-2-propanone, 30 ml 1,4-dioxane, 1.45 g methacrylic acid amide and 1.74 g potassium tert-butoxide.

reactant | 1-[4-(1-imidazolyl)-phenyl]-2-propanone | 3 g | N1(C=NC=C1)C1=CC=C(C=C1)CC(C)=O | C12H12N2O
reactant | methacrylic acid amide | 1.45 g | C(C(=C)C)(=O)N | C4H7NO
reactant | potassium tert-butoxide | 1.74 g | CC(C)([O-])C.[K+]
solvent | 1,4-dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 3,4-dihydro-3,6-dimethyl-5-[4-(1-imidazolyl)-phenyl]-2(1H)-pyridone | CC1C(NC(=C(C1)C1=CC=C(C=C1)N1C=NC=C1)C)=O | C16H17N3O
